US06365584B1
d) N-{2-[2-(4-Cyanophenyl)-ethyl]-1-(3,5-bis-trifluoromethyl-benzyl)-benzimidazol-5-yl}-benzenesulphonamide
N-{3-amino-4-(3,5-bis-trifluoromethyl-benzylamino)-phenyl}-benzenesulphonamide (5.5 g, 11.2 mmol) and p-cyano-phenylpropionic acid (2.35 g, 13.4 mmol) are taken up in 50 mL POCl3, and stirred for 2 h at 100-120° C. A precipitate settles out from the initially clear solution in the course of the reaction. After cooling it is diluted with 100 mL ethyl acetate/diethylether=1/1. The crystals are filtered off and washed with diethylether.

reactant | N-{3-amino-4-(3,5-bis-trifluoromethyl-benzylamino)-phenyl}-benzenesulphonamide | 11.2 mmol, 5.5 g | NC=1C=C(C=CC1NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)NS(=O)(=O)C1=CC=CC=C1 | C21H17F6N3O2S
reactant | p-cyano-phenylpropionic acid | 13.4 mmol, 2.35 g | C(#N)C1=CC=C(C=C1)C(C(=O)O)C | C10H9NO2
reactant | ethyl acetate diethylether | 100 mL | C(C)(=O)OCC.C(C)OCC
solvent | POCl3 | 50 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | N-{2-[2-(4-Cyanophenyl)-ethyl]-1-(3,5-bis-trifluoromethyl-benzyl)-benzimidazol-5-yl}-benzenesulphonamide | C(#N)C1=CC=C(C=C1)CCC1=NC2=C(N1CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=CC(=C2)NS(=O)(=O)C2=CC=CC=C2 | C31H22F6N4O2S
